US09290451B2
c) 5-Chloro-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-chloro-6-cyclopropylmethoxy-pyridine-2-carboxylic acid and 1-methyl-1-[1,2,4]oxadiazol-3-yl ethylamine (CAN 1153757-41-5) as starting materials, MS (LC/MS): m/e=337.1 [M+H]+.

reactant | 5-chloro-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | ClC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10ClNO3
reactant | 1-methyl-1-[1,2,4]oxadiazol-3-yl ethylamine | CC(C)(C1=NOC=N1)N | C5H9N3O
product | 5-Chloro-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide | CC(C)(C1=NOC=N1)NC(=O)C1=NC(=C(C=C1)Cl)OCC1CC1 | C15H17ClN4O3
